US04642365
To 10 ml of ethyl acetate were added 0.540 g of 7β-(2-thienylacetamido)-3-hydroxymethyl-3-cephem-4-carboxylic acid tri-n-butylamine salt and 0.175 g of 5-mercapto-1-methyl-1H tetrazole and, under cooling at -20° C. and stirring, a solution of 0.370 g of methyl o-phenylene phosphorochloridate in 5 ml of ethyl acetate was added. The mixture was stirred under ice-cooling for 1.5 hours and 10 ml of water was added. After phase separation, 20 ml of water was added to the organic layer and the mixture was adjusted to pH 9.0. The aqueous layer was taken and washed with 5 ml of ethyl acetate. To the aequous layer was added 20 ml of ethyl acetate and the mixture was adjusted to pH 2.0. After phase separation, the organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The ethyl acetate was distilled off under reduced pressure and ether was added. The powdery precipitate was collected by filtration to give 0.380 g (yield 84.1%) of 7β-(2-thienylacetamido)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid. The IR and NMR spectra of this product were identical with those of the authentic sample.

reactant | 7β-(2-thienylacetamido)-3-hydroxymethyl-3-cephem-4-carboxylic acid tri-n-butylamine salt | 0.540 g | C(CCC)N(CCCC)CCCC.S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O
reactant | 5-mercapto-1-methyl-1H tetrazole | 0.175 g | SC1=NN=NN1C | C2H4N4S
reactant | water | 10 ml | O | H2O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 7β-(2-thienylacetamido)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.380 g, yield 84.1% | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C16H16N6O4S3
